US06310208B1
In an analogous manner to that described in Example 49 b), from cis-8-fluoro-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one by alkylation with ethyl bromide there was obtained cis-8-fluoro-2-ethyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one, which was converted with MeOH/HCl into the hydrochloride with m.p. >220°.

reactant | cis-8-fluoro-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | FC=1C=CC2=C(C(C[C@H]3CCNC[C@@H]23)=O)C1 | C13H14FNO
reactant | ethyl bromide | C(C)Br | C2H5Br
product | cis-8-fluoro-2-ethyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | FC=1C=CC2=C(C(C[C@H]3CCN(C[C@@H]23)CC)=O)C1 | C15H18FNO
